US06420561B1
Step 1) 3,5-Dichloro-2-hydroxy-4-(4-tert-butoxycarbonylmethylaminobutoxy)benzoic acid methyl ester (VI)
To a solution of 4-tert-butoxycarbonylmethylamino-1-butanol (3 g) and known 3,5-dichloro-2,4-dihydroxybenzoic acid methyl ester (3.85 g) in THF (80 ml) were added triphenylphosphine (4.26 g) and diisopropyl azodicarboxylate (3.2 ml) under ice-cooling, and the mixture was stirred for 16 hours. The reaction mixture was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (developing solvent: hexane/ethyl acetate=4/1 v/v) to give the title compound (5.2 g, yield 83%).

reactant | 4-tert-butoxycarbonylmethylamino-1-butanol | 3 g | C(C)(C)(C)OC(=O)CNCCCCO | C10H21NO3
reactant | 3,5-dichloro-2,4-dihydroxybenzoic acid methyl ester | 3.85 g | COC(C1=C(C(=C(C(=C1)Cl)O)Cl)O)=O | C8H6Cl2O4
reactant | triphenylphosphine | 4.26 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 3.2 ml | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF | 80 ml | C1CCOC1 | C4H8O
product | 3,5-Dichloro-2-hydroxy-4-(4-tert-butoxycarbonylmethylaminobutoxy)benzoic acid methyl ester | 5.2 g, yield 83% | COC(C1=C(C(=C(C(=C1)Cl)OCCCCNCC(=O)OC(C)(C)C)Cl)O)=O | C18H25Cl2NO6
